US07115645B2
6-[[(4-Chlorophenyl)sulfonyl][1,2-diphenyl-1H-benzimidazol-5-yl]amino]hexanoic acid methyl ester
6-[[1,2-Diphenyl-1H-benzimidazol-5-yl]amino]hexanoic acid methyl ester was reacted with 4-chlorobenzenesulfonic acid chloride according to general operating instructions 13.

reactant | 6-[[1,2-Diphenyl-1H-benzimidazol-5-yl]amino]hexanoic acid methyl ester | COC(CCCCCNC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1)=O | C26H27N3O2
reactant | 4-chlorobenzenesulfonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 6-[[(4-Chlorophenyl)sulfonyl][1,2-diphenyl-1H-benzimidazol-5-yl]amino]hexanoic acid methyl ester | COC(CCCCCN(C1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C32H30ClN3O4S
